US07056943B2
tert-Butyl 2-[(2-{1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}-2-oxoacetyl)amino]acetate
To an ice-cooled solution of 2-{1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol -3-yl}-2-oxoacetic acid (1.47 g, 3.35 mmol) in methylene chloride (25 mL) was added 1-hydroxybenzotriazole hydrate (0.771 g, 5.03 mmol). The reaction mixture was stirred for few minutes in an ice bath. Triethylamine (0.47 mL, 3.4 mmol), and glycine tert-butyl ester hydrochloride (0.573 g, 3.42 mmol) were added. After stirring for five more minutes in the ice bath, dicyclohexylcarbodiimide (0.88 g, 4.27 mmol) was added. The reaction mixture was then stirred at room temperature for 2 hours under nitrogen. The mixture was filtered. The insoluble matter was washed with ethyl acetate. The combined filtrate was evaporated to dryness. The residue was partitioned in ethyl acetate and 2N hydrochloric acid. The organic phase was washed with brine and evaporated to dryness. The residue was purified by flash chromatography (Biotage apparatus) using 2.5–12.5% ethyl acetate in hexane to yield the title compound as a yellow solid (1.47 g, 80%), mp 167–168° C. Mass spectrum (−ESI, [M-H]−) m/z 551.7; 1HNMR (500 MHz, DMSO-d6): δ9.05 (s, 1H), 9.0 (t, 1H, J=6.0 Hz), 8.5 (d, 1H, J=1.5 Hz), 7.75–7.8 (m, 2H), 7.7 (d, 1H, J=8.4 Hz), 7.6 (dd, 1H, J=8.6 Hz and 1.8 Hz), 7.45 (d, 1H, J=8.1 Hz), 7.3–7.35 (m, 5H), 5.65 ppm (s, 2H), 3.9 (d, 2H, J=6.1 Hz), and 1.45 ppm (s, 9H).

reactant | 2-{1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol -3-yl}-2-oxoacetic acid | 3.35 mmol, 1.47 g | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC=C(C=C1)OC(F)(F)F)C(C(=O)O)=O | C24H16F3NO4
reactant | 1-hydroxybenzotriazole hydrate | 5.03 mmol, 0.771 g | O.ON1N=NC2=C1C=CC=C2
reactant | Triethylamine | 3.4 mmol, 0.47 mL | C(C)N(CC)CC | C6H15N
reactant | glycine tert-butyl ester hydrochloride | 3.42 mmol, 0.573 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | dicyclohexylcarbodiimide | 4.27 mmol, 0.88 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-[(2-{1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}-2-oxoacetyl)amino]acetate | 1.47 g, 80% | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC=C(C=C1)OC(F)(F)F)C(C(=O)NCC(=O)OC(C)(C)C)=O | C30H27F3N2O5
